US05686482
In a stream of argon, 0.30 g of metallic sodium was added to 5 ml of methanol under ice-cooling, the mixture was stirred at room temperature for a while and then 1.00 g of 4-chloro-2-methoxy-5-nitrobenzoic acid was added to the resulting solution in small portions, followed by stirring at 80° C. for 8 hours. After completion of the reaction, the reaction solution was poured into 1N hydrochloric acid aqueous solution, and the thus precipitated product of interest was collected by filtration, washed with water and then dried under a reduced pressure to give 0.80 g of 2,4-dimethoxy-5-nitrobenzoic acid.

reactant | sodium | 0.30 g | [Na] | Na
reactant | 4-chloro-2-methoxy-5-nitrobenzoic acid | 1.00 g | ClC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])OC | C8H6ClNO5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
product | 2,4-dimethoxy-5-nitrobenzoic acid | 0.80 g | COC1=C(C(=O)O)C=C(C(=C1)OC)[N+](=O)[O-] | C9H9NO6
